US08013156B2
1-(4-Chloro-[1,2,5]thiadiazol-3-yl)-piperidine-4-carboxylic acid ethyl ester (12.3 g, 45 mmol) was dissolved in EtOH (70 mL) to which was added 5N NaOH (15 mL). The mixture was stirred at room temperature for 2 h, then concentrated in vacuo. The resulting aqueous solution was further diluted with H2O, washed with EtOAc (3×) and acidified to pH 2.0 with conc'd HCl. The resulting precipitate was filtered, washed with H2O and dried under high vacuum to give 8.44 g (77%) of 1-(4-chloro-[1,2,5]thiadiazol-3-yl)-piperidine-4-carboxylic acid. 1H NMR (CDCl3) 3.97-3.92 (m, 2H), 3.03 (m, 2H), 2.59 (m, 1H), 2.06 (m, 2H), 1.93 (m, 2H) ppm. LC-MS (M−)=246.

reactant | 1-(4-Chloro-[1,2,5]thiadiazol-3-yl)-piperidine-4-carboxylic acid ethyl ester | 45 mmol, 12.3 g | C(C)OC(=O)C1CCN(CC1)C1=NSN=C1Cl | C10H14ClN3O2S
reactant | NaOH | 5N, 15 mL | [OH-].[Na+]
solvent | EtOH | 70 mL | CCO | C2H6O
product | 1-(4-chloro-[1,2,5]thiadiazol-3-yl)-piperidine-4-carboxylic acid | 8.44 g, 77% | ClC=1C(=NSN1)N1CCC(CC1)C(=O)O | C8H10ClN3O2S
